US04005217
Dry potassium thiocyanate (42.8 g; 0.44 mole), methyl chloroformate (37.8 g; 0.40 mole) and dry acetonitrile (130 ml) were mixed with stirring at laboratory temperature and stirring was continued for 1 hour at 35°-45° C. The mixture was then cooled in an ice bath to 15° C. and 4-n-butyl-2-nitroaniline (38.8 g; 0.2 mole) was added in portions with stirring during 15 minutes, the temperature of the stirred reaction mixture being maintained between 15° and 18° C. during the addition. When the addition was complete the mixture was stirred at 15° C. for 2 hours, poured into water (1 litre), and the yellow solid which separated was filtered off and washed with water. This crude product was recrystallised from ethanol to give 1-methoxycarbonyl-3-(4-n-butyl-2-nitrophenyl)thiourea (47.8 g), m.p. 164°-165° C. (with decomposition).

reactant | potassium thiocyanate | 0.44 mole, 42.8 g | [S-]C#N.[K+]
reactant | methyl chloroformate | 0.40 mole, 37.8 g | ClC(=O)OC | C2H3ClO2
reactant | acetonitrile | 130 ml | C(C)#N | C2H3N
reactant | 4-n-butyl-2-nitroaniline | 0.2 mole, 38.8 g | C(CCC)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H14N2O2
solvent | water | 1 litre | O | H2O
product | 1-methoxycarbonyl-3-(4-n-butyl-2-nitrophenyl)thiourea | 47.8 g | COC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)[N+](=O)[O-] | C13H17N3O4S
